US05356894
A solution of 7-amino-2-(2-furyl)-5-phenoxy-[1,2,4]triazolo[1,5-a][1,3,5]triazine (950 mg) in acetic anhydride was heated under reflux for 1.5 hours. The solvent was then evaporated in vacuo and the residue was purified by chromatography on silica eluting with dichloromethane containing ethyl acetate (5% v/v). The amorphous solid thereby obtained was crystallised from toluene to give 7-acetylamino-2-(2-furyl)-5-phenoxy-[1,2,4]-triazolo[1,5-a][1,3,5]triazine as colourless prisms, m.p. 168°-170° C.; microanalysis, found; C, 60.9; H, 4.2; N, 22.6%; C16H12N6O3 0.45 C7H8 requires: C, 60.9; H, 4.1; N, 22.3%; NMR 2.3 (s, 3H equivalent, toluene CH3), 2.35 (s, 3H, CH3CO), 6.7 (q, 1H, furyl-4H), 7.1-7.6 (complex, 6H, furyl-3H+ phenyl-H+toluene), 7.95(d, 1H, furyl-5H), 11.5 (broad s, 1H, NH); m/e 336 (M+).

reactant | 7-amino-2-(2-furyl)-5-phenoxy-[1,2,4]triazolo[1,5-a][1,3,5]triazine | 950 mg | NC1=NC(=NC=2N1N=C(N2)C=2OC=CC2)OC2=CC=CC=C2 | C14H10N6O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 7-acetylamino-2-(2-furyl)-5-phenoxy-[1,2,4]-triazolo[1,5-a][1,3,5]triazine | C(C)(=O)NC1=NC(=NC=2N1N=C(N2)C=2OC=CC2)OC2=CC=CC=C2 | C16H12N6O3
